US04585774
5 Grams of methyl m-(α-chloroacetylamino)benzoate, 7.56 g of N-(3,4-dimethoxybenzoyl)piperazine monohydrochloride, 7.76 g of triethylamine and 30 ml of acetonitrile were mixed together and reacted at 45° to 50° C. for 5 hours. After completion of the reaction, the reaction mixture was ice-cooled, and the crystals formed were removed by filtration. The mother liquor was concentrated to dryness, and extracted by adding 1 N-sodium hydroxide aqueous solution and chloroform. The chloroform layer was washed with water, dried and removed by distillation. The oily substance obtained was purified by a silica gel column chromatography to obtain 10.08 g of m-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide in the form of colorless oily substance.

reactant | methyl m-(α-chloroacetylamino)benzoate | ClCC(=O)NC=1C=C(C(=O)OC)C=CC1 | C10H10ClNO3
reactant | N-(3,4-dimethoxybenzoyl)piperazine monohydrochloride | 7.56 g | Cl.COC=1C=C(C(=O)N2CCNCC2)C=CC1OC
reactant | triethylamine | 7.76 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | m-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide | 10.08 g | COC(=O)C=1C=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC1 | C23H27N3O6
